US04798780
1-(2'-hydroxymethylbenzoyl) 2-phenylhydrazine
The method adopted is disclosed in Wislicenus (Berichte 20 401). Phenyl hydrazine (27 ml) and phthalide (33 g) were heated together at 70° to 80° C. for 3 hours. After cooling to 20° C. the solid product was stirred with ether (100 ml) and the product collected by filtration, washed with ether and recrystallised from 2-propanol. Yield 9.6 g (16%) melting point 170°-172° C.

reactant | Phenyl hydrazine | 27 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | phthalide | 33 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2'-hydroxymethylbenzoyl) 2-phenylhydrazine | OCC1=C(C(=O)NNC2=CC=CC=C2)C=CC=C1 | C14H14N2O2
